US08124606B2
(S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (100 mg, 0.456 mmol), 3-chloro-N-ethyl-4-(piperazin-1-yl)benzamide hydrochloride (139 mg, 0.456 mmol), (cyanomethyl)trimethylphosphonium iodide (166 mg, 0.684 mmol) and N,N-diisopropylethylamine (0.398 ml, 2.281 mmol) were suspended in propiononitrile (Volume: 1.370 ml) and heated in a closed vial at 90-120° C. for 4 h. The reaction mixture became a dark brown solution. It was cooled to room temperature, concentrated in vacuo, dissolved in DMSO (2 mL) and purified using HPLC (basic, 10-95% ACN in water). The fractions were concentrated in vacuo and the resulting solid was recrystallized from water-methanol (5:1, 6 mL) and dried in vacuum to afford (S)-3-chloro-N-ethyl-4-(44(6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide (75.6 mg, 0.161 mmol, 35.3% yield) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.03 (t, J=7.20 Hz, 3H) 1.76-1.93 (m, 3H) 2.06-2.17 (m, 1H) 2.44-2.51 (m, 4H) 2.96 (br. s., 4H) 3.14-3.23 (m, 2H) 3.28-3.38 (m, 3H) 3.46-3.58 (m, 1H) 3.88-3.97 (m, 1H) 6.92 (d, J=2.02 Hz, 1H) 7.10 (d, J=8.34 Hz, 1H) 7.56 (d, J=1.77 Hz, 1H) 7.70 (dd, J=8.34, 2.02 Hz, 1H) 7.81 (d, J=2.27 Hz, 1H) 8.37 (t, J=5.43 Hz, 1H) 10.38 (s, 1H). [M+H] calc'd for C24H29ClN6O2, 469; found, 469.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.456 mmol, 100 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | 3-chloro-N-ethyl-4-(piperazin-1-yl)benzamide hydrochloride | 0.456 mmol, 139 mg | Cl.ClC=1C=C(C(=O)NCC)C=CC1N1CCNCC1
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.684 mmol, 166 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 2.281 mmol, 0.398 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propiononitrile | 1.370 ml | C(CC)#N | C3H5N
product | benzamide | 0.161 mmol, 75.6 mg, 35.3% yield | C(C1=CC=CC=C1)(=O)N | C7H7NO
